US06949542B2
3-[3-(6-Methyl-dimethylamino-pyrimidin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester
The title compound was prepared from 3-(2-dimethylamino-6-methyl-pyrimidin-4-yl)-benzoic acid methyl ester [prepared by the following procedure: A mixture of NaH (50% dispersion in mineral oil, 1.56 g, 32.5 mmol) in 2-propanol (45 ml) was stirred at 50° C. for 10 min. N-methylguanidine hydrochloride (3.3 g, 30 mmol) was added and stirring was continued for 10 min. After the addition of 3-(3-oxo-butyryl)-benzoic acid (3.1 g, 15 mmol), the mixture was stirred at 80° C. for 48 h. After cooling to RT, H2O (100 ml) was added and the mixture was concentrated in vacuum to a volume of ca. 80 ml. The pH was set to 2.5 with 25% HCl and the precipitate was collected, dried and then esterified by stirring in 1N HCl-MeOH (30 ml) for 60 h at RT The crude product was purified by chromatography (silica gel, AcOEt) to give the methyl ester as light yellow solid (0.27 g).] (0.26 g, 1 mmol) by treatment with lithium tert-butyl acetate according to general procedure K (method b). Obtained as a light yellow oil (0.38 g, crude product).

reactant | 3-(2-dimethylamino-6-methyl-pyrimidin-4-yl)-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C1=NC(=NC(=C1)C)N(C)C)=O | C15H17N3O2
reactant | NaH | 32.5 mmol, 1.56 g | [H-].[Na+]
reactant | N-methylguanidine hydrochloride | 30 mmol, 3.3 g | Cl.CNC(=N)N
reactant | 3-(3-oxo-butyryl)-benzoic acid | 15 mmol, 3.1 g | O=C(CC(=O)C=1C=C(C(=O)O)C=CC1)C | C11H10O4
solvent | 2-propanol | 45 ml | CC(C)O | C3H8O
solvent | H2O | 100 ml | O | H2O
product | 3-[3-(6-Methyl-dimethylamino-pyrimidin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=NC(=NC(=C1)C)N(C)C)=O | C20H25N3O3
